US06797823B1
N-(4-{[6-Methoxy-7-(2-methoxyethoxy)-4quinolyl]oxy}-2,3-dimethylphenyl)-N′-(2-methoxyphenyl)-urea
N-(4-{[7-(Benzyloxy)-6-methoxy-4-quinolyl]oxy}-2,3-dimethylphenyl)-N′-(2-methoxyphenyl)urea (161 mg) was dissolved in N,N-dimethylformamide (4 ml) and triethylamine (1 ml), and palladium hydroxide (32 mg) was added to the solution. The mixture was stirred in a hydrogen atmosphere at room temperature overnight. The reaction solution was filtered through Celite and was washed with chloroform/methanol. The solvent was removed by distillation under the reduced pressure. A 110 mg portion of the residue (223 mg) was dissolved in N,N-dimethylformamide (1.5 ml), and potassium carbonate (23 mg), tetra-n-butylammonium iodide (5 mg), and 2-bromoethyl methyl ether (23 mg) were added to the solution. The mixture was stirred at 70° C. overnight. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution, and the mixture was extracted with chloroform. The chloroform layer was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by thin-layer chromatography on silica gel by development with chloroform/acetone (2/1) to give 89 mg of the title compound.

reactant | N-(4-{[7-(Benzyloxy)-6-methoxy-4-quinolyl]oxy}-2,3-dimethylphenyl)-N′-(2-methoxyphenyl)urea | 161 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=C(C(=C(C=C1)NC(=O)NC1=C(C=CC=C1)OC)C)C)OC | C33H31N3O5
reactant | hydrogen | [H][H] | H2
reactant | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium hydroxide | 32 mg | [OH-].[Pd+2].[OH-]
product | N-(4-{[6-Methoxy-7-(2-methoxyethoxy)-4quinolyl]oxy}-2,3-dimethylphenyl)-N′-(2-methoxyphenyl)-urea | 89 mg | COC=1C=C2C(=CC=NC2=CC1OCCOC)OC1=C(C(=C(C=C1)NC(=O)NC1=C(C=CC=C1)OC)C)C | C29H31N3O6
